US07592353B2
A suspension of (6′-chloro-5′-cyano-4′-difluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-methyl-carbamic acid tert-butyl ester (1.1 g, 2.74 mmol) potassium carbonate (1.9 g, 13.7 mmol) in DMF (15 mL) was treated with 2-mercaptoacetamide (solution of 1 g, 11 mmol in 10 mL of methanol), and the reaction mixture was heated in a sealed tube at 80° C. overnight. The reaction mixture was then cooled to room temperature and filtered. The filtrate was treated with water (50 mL) and the resulting precipitate was collected by filtration to provide 1.03 g (82.4%) of [1-(3-amino-2-carbamoyl-4-difluoromethyl-thieno[2,3-b]pyridin-6-yl)-piperidin-4-yl]-methyl-carbamic acid tert-butyl ester as a tan solid.

reactant | (6′-chloro-5′-cyano-4′-difluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-methyl-carbamic acid tert-butyl ester | 2.74 mmol, 1.1 g | C(C)(C)(C)OC(N(C)C1CCN(CC1)C1=NC(=C(C(=C1)C(F)F)C#N)Cl)=O | C18H23ClF2N4O2
reactant | 2-mercaptoacetamide | 11 mmol, 10 mL, 1 g | SCC(=O)N | C2H5NOS
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | [1-(3-amino-2-carbamoyl-4-difluoromethyl-thieno[2,3-b]pyridin-6-yl)-piperidin-4-yl]-methyl-carbamic acid tert-butyl ester | 1.03 g, 82.4% | C(C)(C)(C)OC(N(C)C1CCN(CC1)C1=CC(=C2C(=N1)SC(=C2N)C(N)=O)C(F)F)=O | C20H27F2N5O3S
